US08293923B2
Step 1: ((3-Nitro-4-(phenylamino)phenyl)methanol
(4-Fluoro-3-nitrophenyl)methanol (1.500 g, 0.008765 mol), N,N-diisopropylethylamine (3.054 mL, 0.01753 mol), N,N-dimethylformamide (3.688 mL, 0.04764 mol), and aniline (2.40 mL, 0.0263 mol) were placed into three separate microwave vials. Each was reacted at 150° C. for 30 minutes. The resultant gel was dissolved in ethyl acetate, washed once with 5% citric acid and once with brine, dried and concentrated. The residue was used directly in the next step.

reactant | (4-Fluoro-3-nitrophenyl)methanol | 0.008765 mol, 1.500 g | FC1=C(C=C(C=C1)CO)[N+](=O)[O-] | C7H6FNO3
reactant | N,N-diisopropylethylamine | 0.01753 mol, 3.054 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-dimethylformamide | 0.04764 mol, 3.688 mL | CN(C=O)C | C3H7NO
reactant | aniline | 0.0263 mol, 2.40 mL | NC1=CC=CC=C1 | C6H7N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3-Nitro-4-(phenylamino)phenyl)methanol | [N+](=O)([O-])C=1C=C(C=CC1NC1=CC=CC=C1)CO | C13H12N2O3
